US06232290B1
To 3-amyloxybenzoic acid methyl ester (35 g) in methanol (200 ml) was added 1N-sodium hydroxide aqueous solution (200 ml) and the mixture was stirred for 2 days at room temperature. Hydroxy chloride (20 ml) was added to the raction mixture. The precipitate was filtered and washed with water, acetonitrile and diisopropyl ether to give 3-amyloxybenzoic acid (30 mg).

reactant | 3-amyloxybenzoic acid methyl ester | 35 g | COC(C1=CC(=CC=C1)OCCCCC)=O | C13H18O3
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | Hydroxy chloride | 20 ml | OCl | ClHO
solvent | methanol | 200 ml | CO | CH4O
product | 3-amyloxybenzoic acid | 30 mg | C(CCCC)OC=1C=C(C(=O)O)C=CC1 | C12H16O3
